US05153187
(1R, 5S, 6S)-2-[(3R)-Pyrrolidine-2-thion-3-ylthio]-6-[(1R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid potassium salt (0.5 g) is suspended in N,N-dimethylformamide (5 ml). To the suspension is added isobutyryloxymethyl iodide (338 mg) under ice cooling, and the mixture is stirred at the same temperature for 30 minutes. To the reaction mixture is added ethyl acetate, and the mixture is washed with water, dried and concentrated to dryness under reduced pressure. The residue is purified by silica gel flash column chromatography (eluent, chloroform:methanol=20:1) to give (1R, 5S, 6S)-2-[(3R)-pyrrolidine-2-thion-3-ylthio]-6-[(1R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid isobutyryloxymethyl ester (0.14 g) as an amorphous powder.

reactant | (1R, 5S, 6S)-2-[(3R)-Pyrrolidine-2-thion-3-ylthio]-6-[(1R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid potassium salt | 0.5 g | [K+].N1C([C@@H](CC1)SC=1[C@@H]([C@H]2N(C1C(=O)[O-])C([C@@H]2[C@@H](C)O)=O)C)=S
reactant | isobutyryloxymethyl iodide | 338 mg | C(C(C)C)(=O)OCI | C5H9IO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | (1R, 5S, 6S)-2-[(3R)-pyrrolidine-2-thion-3-ylthio]-6-[(1R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid isobutyryloxymethyl ester | 0.14 g | C(C(C)C)(=O)OCOC(=O)C1=C([C@@H]([C@H]2N1C([C@@H]2[C@@H](C)O)=O)C)S[C@H]2C(NCC2)=S | C19H26N2O6S2
